US08808703B2
Step 1: benzyl 6-(tert-butoxycarbonylamino)hexanoate
To a solution of 6-(tert-butoxycarbonylamino)hexanoic acid (1 eq) in acetone (0.2 M) was added potassium carbonate (2 eq) and (bromomethyl)benzene (2 eq) in acetone (2 M). The reaction mixture was stirred at room temperature for 1 hour. Additional amount of DMF was then added to the reaction mixture to facilitate the dissolution of potassium carbonate. The reaction mixture was stirred at room temperature for another 30 minutes. The mixture was then diluted with ethyl acetate, and washed with 5% citric acid, water and brine. The organic layer was dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 10-40% EtOAc/Hex to give the product.

reactant | 6-(tert-butoxycarbonylamino)hexanoic acid | 1 eq | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | potassium carbonate | 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)benzene | 2 eq | BrCC1=CC=CC=C1 | C7H7Br
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetone | 0.2 M | CC(=O)C | C3H6O
solvent | acetone | 2 M | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 6-(tert-butoxycarbonylamino)hexanoate | C(C)(C)(C)OC(=O)NCCCCCC(=O)OCC1=CC=CC=C1 | C18H27NO4
